US04091018
Preparation of (S)-N-(1,2,3,4-tetrahydro-1-naphthyl-1-naphthyl)acetamide
(S)-1,2,3,4-tetrahydro-1-naphthylamine (26.9 g.) is dissolved in 200 ml. of toluene and 36 g. of acetic anhydride is added while the temperature from the reaction exotherm is moderated at 50° C. to 60° C. with an ice-bath. The solution is heated to reflux for 0.5 hr. and then stirred at room temperature overnight. The mixture is then evaporated to dryness and the residue is washed well with ether. On drying, 26.1 g. of the title compound, m.p. 153° C. to 155° C., is obtained.

reactant | (S)-1,2,3,4-tetrahydro-1-naphthylamine | 26.9 g | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-N-(1,2,3,4-tetrahydro-1-naphthyl-1-naphthyl)acetamide | [C@@H]1(CCCC2=CC=CC=C12)C1=C(C2=CC=CC=C2C=C1)NC(C)=O | C22H21NO
